US09107916B2
B. 2-[4-(2-hydroxyethyl)pyrazol-1-yl]pyridine-4-carbonitrile
To a solution of 2-[4-[2-[tert-butyl(dimethyl)silyl]oxyethyl]pyrazol-1-yl]pyridine-4-carbonitrile (1.2 g, 3.6 mmol) in THF (15 mL) at 0° C. was added 3N HCl (5 mL). The reaction mixture was then stirred for 2 hours at room temperature. Cool to 0° C., added ethyl acetate, water and acidified with NaHCO3 to pH=8. The mixture was then extracted with ethylacetate, concentrated to afford the title compound (700 mg, 91%). [M+H] Calc'd for C11H10N4O, 215. Found, 215.

reactant | 2-[4-[2-[tert-butyl(dimethyl)silyl]oxyethyl]pyrazol-1-yl]pyridine-4-carbonitrile | 3.6 mmol, 1.2 g | [Si](C)(C)(C(C)(C)C)OCCC=1C=NN(C1)C1=NC=CC(=C1)C#N | C17H24N4OSi
reactant | HCl | 3N, 5 mL | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-[4-(2-hydroxyethyl)pyrazol-1-yl]pyridine-4-carbonitrile | 700 mg, 91% | OCCC=1C=NN(C1)C1=NC=CC(=C1)C#N | C11H10N4O
